US08039450B2
To a 25 mL round-bottom flask fitted with magnetic stirring bar was added 5-(4-nitro-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol (310 mg, 1.1 mmol, 1.0 eq.), followed by addition of MeOH (10 mL). The flask was evacuated and recharged with N2 twice. To the stirring solution was added 5% Pd/C (60 mg) and the flask was evacuated and recharged with H2 three times. The resulting suspension was stirred under a H2 balloon at room temperature overnight. The mixture was filtered through a short pack of celite and washed with MeOH (3×10 mL). The combined filtrate was concentrated under reduced pressure to give a light yellow oil. The oil was dissolved in minimum amount of MeOH and carefully treated with HCl (conc.). The precipitate was collected by filtration, washed with heptanes to give 5-(4-amino-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol hydrochloride salt as a white solid. LCMS (m/z) 242 (M+H); 1H NMR (DMSO-d6) δ: 9.03 (br. s., 1H), 7.64 (d, J=8.0 Hz, 1H), 6.77-6.89 (m, 4H), 6.64-6.77 (m, 2H), 4.86 (s, 2H), 3.30 (br. s., 2H).

reactant | 5-(4-nitro-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol | 1.1 mmol, 310 mg, 1.0 eq. | [N+](=O)([O-])C1=CC=C(OC2=CC3=C(B(OC3)O)C=C2)C=C1 | C13H10BNO5
reactant | HCl | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | 5-(4-amino-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol hydrochloride salt | Cl.NC1=CC=C(OC2=CC3=C(B(OC3)O)C=C2)C=C1 | InChI=1S/C13H12BNO3.ClH/c15-10-1-3-11(4-2-10)18-12-5-6-13-9(7-12)8-17-14(13)16;/h1-7,16H,8,15H2;1H
